### PR TITLE
feat: Turing degrees form an upper semilattice

### PR DESCRIPTION
**Pull request by tannerduve**
This PR equips `TuringDegree` with a `SemilatticeSup` structure by introducing the Turing join, proving usual least-upper-bound properties, and lifting these to degrees (quotients). In support of this, it extends the existing `RecursiveIn` API with some lemmas used in the degree theory.

We split the existing `TuringDegree.lean` file into `RecursiveIn.lean` which contains the general API for oracle computability, and `TuringDegree.lean` now just contains the degree theory.

The main contribution is the `SemilatticeSup` instance on `TuringDegree`. We define the Turing join as follows

```
turingJoin (f g) : ℕ → ℕ   -- notation: f ⊕ g
```

and prove it is a least upper bound:

* `left_le_join`, `right_le_join`
* `join_le`
* monotonicity and congruence lemmas (`join_mono`, `join_congr`)

We lift this to degrees in `TuringDegree.sup`, `TuringDegree.le_sup_left`, `TuringDegree.le_sup_right`, and `TuringDegree.sup_le`

```
instance : SemilatticeSup TuringDegree
```

**New additions to `RecursiveIn.lean`:**

-  `liftPrim`, `liftPrimrec`, `RecursiveIn'`, `ComputableIn`, `ComputableIn₂`: Encodes partial/total functions between `Primcodable` types as `ℕ →. ℕ`, analogous to `Partrec`/`Computable`.

- `of_eq`, `of_eq_tot`, `of_primrec`, `some`, `none`, `mono`, `subst`: Standard closure properties for `RecursiveIn`.

- `cond_const`, `cond_core_rfind`, `cond`, `ComputableIn.cond`: Shows `RecursiveIn` is closed under conditionals when the guard is absolutely computable

- `Nat.Partrec.recursiveIn`, `Computable.computableIn`: Every partrec/computable function is recursive in any oracle set.

Small addition to `Partrec`

we add to `Mathlib.Computability.Partrec` a small helper def (`Partrec.eq01` and related `rfind` lemmas) representing the function that returns 0 if its two (unpaired) arguments are equal, 1 otherwise, which is used in the proof of `cond`

## TODO
Some current `RecursiveIn` proofs such as `cond_core_rfind` still work directly with the inductive constructors and are thus very long. A follow up could add a combinator-style closure library byessentially relativizing all the results and lemmas in `Partrec`, and proofs could be golfed heavily as they are in `Partrec`

### CODE REVIEW

File: Mathlib/Computability/RecursiveIn.lean [hunk 1]
```diff
@@ -0,0 +1,441 @@
...
+  Primrec.to_computableIn Primrec.sumInl O
+
+theorem sumInr_in (O : Set (ℕ →. ℕ)) : ComputableIn O (@Sum.inr α β) :=
+  Primrec.to_computableIn Primrec.sumInr O
+
+/--
+If a function is recursive in the constant zero function,
+then it is partial recursive.
+-/
+lemma RecursiveIn.partrec_of_zero (fRecInZero : RecursiveIn {fun _ => Part.some 0} f) :
```
Comment (plp127) [inline Mathlib/Computability/RecursiveIn.lean]: This lemma admits an easy generalization:
If every element of `g` is `Partrec`, then a function which is `RecursiveIn g` is also `Partrec`.

Comment (tannerduve) [reply Mathlib/Computability/RecursiveIn.lean]: done

File: Mathlib/Computability/RecursiveIn.lean
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean:1]: If this is being split from an existing file, please do this first step in its own PR, that _only_ moves the content and adds no new results.

File: Mathlib/Computability/TuringDegree.lean [hunk 2]
```diff
@@ -164,15 +129,175 @@ private instance : Preorder (ℕ →. ℕ) where
...
+  have hfO : RecursiveIn O f := RecursiveIn.oracle f (by simp [O])
+  have hgO : RecursiveIn O g := RecursiveIn.oracle g (by simp [O])
+  let evenBranch : ℕ →. ℕ := fun n => (Nat.div2 n : ℕ) >>= f >>= fun y => (2 * y : ℕ)
+  let oddBranch : ℕ →. ℕ := fun n => (Nat.div2 n : ℕ) >>= g >>= fun y => (2 * y + 1 : ℕ)
+  have heven : RecursiveIn O evenBranch := by
+    simpa [evenBranch] using RecursiveIn.comp hdbl (RecursiveIn.comp hfO hpayload)
+  have hodd : RecursiveIn O oddBranch := by
+    simpa [oddBranch] using RecursiveIn.comp hdbl1 (RecursiveIn.comp hgO hpayload)
+  have hc : Computable Nat.bodd := by
+    simpa using (Computable.nat_bodd : Computable Nat.bodd)
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegree.lean]: This statement looks very strange to me; was it written by an AI?

File: Mathlib/Computability/RecursiveIn.lean
Comment (tannerduve) [reply Mathlib/Computability/RecursiveIn.lean:1]: will do (tomorrow)

File: Mathlib/Computability/TuringDegree.lean (hunk 2 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegree.lean]: this theorem was proven by [Aleph](https://logicalintelligence.com/aleph-coding-ai/), who I believe I added as a coauthor in this commit. but I just removed this line in the latest commit. the other proofs are handwritten. it's hard to give line-by-line credit since I pasted this from a personal repo, but I include coauthors in any commits with code written by a collaborator or with AI assistance

Comment (eric-wieser) [reply Mathlib/Computability/TuringDegree.lean]: I think it's probably best to put this `Co-authored-by` information in the PR description as well, since the history is squashed when we merge, and most reviewers aren't going to check the commit history.

File: Mathlib/Computability/Partrec.lean [hunk 3]
```diff
@@ -772,4 +772,61 @@ theorem fix {f : α →. σ ⊕ α} (hf : Partrec f) : Partrec (PFun.fix f) := b
   exact ((Partrec.rfind hp).bind (hF.bind (sumCasesOn_right snd snd.to₂ none.to₂).to₂).to₂).of_eq
     fun a => ext fun b => by simpa [p] using fix_aux f _ _
 
+/-- The function that returns 0 if its two (unpaired) arguments are equal, 1 otherwise -/
+def eq01 : ℕ →. ℕ := fun p => Part.some (if (Nat.unpair p).1 = (Nat.unpair p).2 then 0 else 1)
```
Comment (vihdzp) [inline Mathlib/Computability/Partrec.lean]: Isn't this Kronecker delta, but backwards? What do you think about this?
```suggestion
def kronecker : ℕ →. ℕ := fun p => Part.some (if (Nat.unpair p).1 = (Nat.unpair p).2 then 1 else 0)
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 4]
```diff
@@ -0,0 +1,446 @@
...
+      (fun g hg => ((Set.mem_empty_iff_false g).mp hg).elim)
+      hf,
+  fun hf =>
+    Nat.Partrec.recursiveIn (O := ({} : Set (ℕ →. ℕ))) hf
+⟩
+
+namespace RecursiveIn
+
+/-- Monotonicity of `RecursiveIn` with respect to oracle sets. -/
+theorem mono {O₁ O₂ : Set (ℕ →. ℕ)} (hsub : O₁ ⊆ O₂) {g : ℕ →. ℕ} :
```
Comment (plp127) [inline Mathlib/Computability/RecursiveIn.lean]: The theorems `mono` and `subst` also have an easy common generalization: If every element of `O₁` is `RecursiveIn O₂`, then any function which is `RecursiveIn O₁` is also `RecursiveIn O₂`.

File: Mathlib/Computability/RecursiveIn.lean [hunk 5]
```diff
@@ -0,0 +1,446 @@
...
+  | prec _ _ ih₁ ih₂ => exact .prec ih₁ ih₂
+  | rfind _ ih => exact .rfind ih
+
+/--
+If a function is computable, then it is computable in every oracle.
+-/
+theorem Computable.computableIn {f : α → β} [Primcodable α]
+[Primcodable β]
+(hf : Computable f) : ComputableIn O f :=
+  Nat.Partrec.recursiveIn (by simpa [Computable] using hf)
```
Comment (plp127) [inline Mathlib/Computability/RecursiveIn.lean]: The [style guide](https://leanprover-community.github.io/contribute/style.html) says the additional lines of your theorem statement should be indented:
```suggestion
theorem Computable.computableIn {f : α → β} [Primcodable α] [Primcodable β]
    (hf : Computable f) : ComputableIn O f :=
  Nat.Partrec.recursiveIn (by simpa [Computable] using hf)
```

**Review by eric-wieser — CHANGES_REQUESTED** [review]
Please make sure to follow the policy at https://leanprover-community.github.io/contribute/index.html#use-of-ai.

File: Mathlib/Computability/Partrec.lean (hunk 3 above)
Comment (tannerduve) [reply Mathlib/Computability/Partrec.lean]: good call!
